US06326388B1
A mixture of 3-(1,3-dioxoisoindolin-2-yl)-3-(3-ethoxy-4-methoxyphenyl)propanoic acid (3.0 g, 8.1 mmol) and carbonyidiimidazole (1.45 g, 8.94 mmol) in tetrahydrofuran (15 mL) was stirred at room temperature for 2 hours. To the solution was added formic hydrazide (644 mg, 10.7 mmol). The mixture was stirred for 18 hours. The resulting suspension was filtered and washed with ether. The isolated solid was stirred in a mixture of ethyl acetate (40 mL) and water (10 mL) for 1 hour. The suspension was filtered and washed with water and ether to give crude 3-(1,3-dioxoisoindolin-2-yl)-N-carbonylamino-3-(3-ethoxy-4-methoxyphenyl)propanamide (1.3 g, 39% yield). A solution of 3-(1,3-dioxoisoindolin-2-yl)-N-carbonylamino-3-(3-ethoxy-4-methoxyphenyl)propanamide (600 mg, 1.46 mmol) and phosphorus oxychloride (POCl3, 0.54 mL, 5.8 mmol) in acetonitrile (20 mL) was heated to reflux for 2 hours. This solution was poured into water (10 mL). The aqueous layer was extracted with ethyl acetate (2×50 mL). The combined organic layers were washed with sodium hydrogen carbonate (50 mL, sat), brine (50 mL) and dried over magnesium sulfate. Removal of solvent and chromatography gave an oil. The oil was slurried in ether (10 mL). The resulting suspension was filtered to yield 2-[1-(3-ethoxy-4-methoxyphenyl)-2-(1,3,4-oxadiazol-2-yl)ethyl]isoindoline-1,3-dione as a white solid (250 mg, 43% yield): mp, 132.0-134.0° C.; 1H NMR (CDCl3); δ 1.46 (t, J=6.9 Hz, 3H, CH3), 2.82 (dd, J=6.0, 15.6 Hz, 1H, CHH), 3.84 (s, 3H, CH3), 4.11 (q, J=7.0 Hz, 2H, CH2), 4.37 (dd, J=10.3, 15.7 Hz, 1H, CHH), 5.81 (dd, J=6.0, 10.3 Hz, 1H, NCH), 6.62 (d, J=7.9 Hz, 1H, Ar), 7.13-7.17 (m, 2H, Ar), 7.67-7.72 (m, 2H, Ar), 7.75-7.62 (m, 2H, Ar), 8.29 (s, 1H, Ar); 13C NMR (CDCl3)δ 14.69, 27.70, 51.85, 55.90, 64.42, 111.32, 112.51, 120.32, 123.44, 130.14, 13163, 134.13, 148.39, 143.43, 153.03, 163.99, 167.93; Anal Calcd for C21H29N3O5: C, 64.12; H, 4.87; N, 10.68. Found: C, 63.84; H, 4.90; N, 10.48.

reactant | 3-(1,3-dioxoisoindolin-2-yl)-N-carbonylamino-3-(3-ethoxy-4-methoxyphenyl)propanamide | 1.46 mmol, 600 mg | O=C1N(C(C2=CC=CC=C12)=O)C(CC(=O)NN=C=O)C1=CC(=C(C=C1)OC)OCC | C21H19N3O6
reactant | phosphorus oxychloride | 5.8 mmol, 0.54 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | water | 10 mL | O | H2O
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | ether | 10 mL | CCOCC | C4H10O
product | 2-[1-(3-ethoxy-4-methoxyphenyl)-2-(1,3,4-oxadiazol-2-yl)ethyl]isoindoline-1,3-dione | 250 mg, 43% yield | C(C)OC=1C=C(C=CC1OC)C(CC=1OC=NN1)N1C(C2=CC=CC=C2C1=O)=O | C21H19N3O5
